US06420362B1
0.9 g (0.0036 mol) of 2-[(5,6-dihydro-[1,4,2]dioxazin-3-yl)-methoxyimino-methyl]-benzaldehyde, 0.69 g (0.0036 mol) of 3-trifluoromethylacetophenone, 0.18 g (0.0036 mol) of hydrazine hydrate and 25 mg of 4-toluenesulphonic acid are heated under reflux in 120 ml of toluene for 18 hours using a water separator. After cooling, the mixture is dried over magnesium sulphate and concentrated under reduced pressure. The residue is chromatographed over silica gel with cyclohexane/ethyl acetate (5:1). 0.45 g (29% of theory) of (5,6-dihydro-[1,4,2]dioxazin-3-yl)-(2-{[1-(3-trifluoromethylphenyl)-ethylidene]-hydrazonomethyl}-phenyl)-methanone O-methyl oxime is obtained.

reactant | 2-[(5,6-dihydro-[1,4,2]dioxazin-3-yl)-methoxyimino-methyl]-benzaldehyde | 0.0036 mol, 0.9 g | O1N=C(OCC1)C(C1=C(C=O)C=CC=C1)=NOC | C12H12N2O4
reactant | 3-trifluoromethylacetophenone | 0.0036 mol, 0.69 g | CC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H7F3O
reactant | hydrazine hydrate | 0.0036 mol, 0.18 g | O.NN
reactant | 4-toluenesulphonic acid | 25 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (5,6-dihydro-[1,4,2]dioxazin-3-yl)-(2-{[1-(3-trifluoromethylphenyl)-ethylidene]-hydrazonomethyl}-phenyl)-methanone O-methyl oxime | 0.45 g, 29% | CON=C(C1=C(C=CC=C1)C=NN=C(C)C1=CC(=CC=C1)C(F)(F)F)C1=NOCCO1 | C21H19F3N4O3
